US07696215B2
To a suspension 2-amino-5-iodoisophthalic acid (30.4 g) and in toluene (300 ml) was added trimethyl orthoformate (60 ml) followed by acetic acid (5.6 ml). The reaction mixture was stirred at 100° C. for 4 hours when additional trimethyl orthoformate (30 ml) and acetic acid (5.6 ml) was added and the heating continued for a further 21 hours. Methyl 3-amino-4-methylbenzoate (10.9 g) was added and the reaction mixture stirred at 100° C. for 21 hours. The reaction mixture was cooled to room temperature and the resultant solid collected by filtration, washed MeOH and dried in vacuo for 18 hours to yield 6-iodo-3-[5-(methoxycarbonyl)-2-methylphenyl]-4-oxo-3,4-dihydroquinazoline-8-carboxylic acid as a white solid (21.1 g); NMR Spectrum: (DMSOd6) 2.20 (s, 3H), 3.85 (s, 3H), 7.61 (d, 1H), 8.02 (m, 1H), 8.08 (s, 1H), 8.54 (m, 1H), 8.62 (m, 2H); Mass Spectrum: M+H+ 465.

reactant | 2-amino-5-iodoisophthalic acid | 30.4 g | NC1=C(C(=O)O)C=C(C=C1C(=O)O)I | C8H6INO4
reactant | trimethyl orthoformate | 60 ml | C(OC)(OC)OC | C4H10O3
reactant | acetic acid | 5.6 ml | C(C)(=O)O | C2H4O2
reactant | trimethyl orthoformate | 30 ml | C(OC)(OC)OC | C4H10O3
reactant | acetic acid | 5.6 ml | C(C)(=O)O | C2H4O2
reactant | Methyl 3-amino-4-methylbenzoate | 10.9 g | NC=1C=C(C(=O)OC)C=CC1C | C9H11NO2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 6-iodo-3-[5-(methoxycarbonyl)-2-methylphenyl]-4-oxo-3,4-dihydroquinazoline-8-carboxylic acid | 21.1 g | IC=1C=C2C(N(C=NC2=C(C1)C(=O)O)C1=C(C=CC(=C1)C(=O)OC)C)=O | C18H13IN2O5
